US05910577
Dimethyl 2-[2-oxo-1-(1,2,3,4-tetrahydro-2,3-dioxo-6-methoxyquinoxalin-7-ylcarbamoyl)propylazo]terephthalate
0.1 mol of dimethyl aminoterephthalate hydrochloride is diazotized with sodium nitrite at from 0 to 10° C. The clarified diazonium salt solution is added dropwise at room temperature over 1 hour to an acetate-buffered suspension of 0.1 mol of N-acetoacetyl-6-methoxy-7-aminoquinoxaline-2,3-dione in the presence of a sufactant, such as ®LUTENSOL AT 25. When coupling is at an end the mixture is heated to 96° C.and the product is filtered and washed free of salt. The moist presscake is suspended in N-methylpyrrolidone, the water is removed by distillation and the product is subsequently heated at from 100 to 170° C. It is then cooled to 70° C., filtered, dried and milled. This gives 51 g of a yellow pigment.

reactant | dimethyl aminoterephthalate hydrochloride | 0.1 mol | Cl.NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | acetate | C(C)(=O)[O-]
reactant | N-acetoacetyl-6-methoxy-7-aminoquinoxaline-2,3-dione | 0.1 mol | C(CC(=O)C)(=O)N1C(C(NC2=CC(=C(C=C12)N)OC)=O)=O | C13H13N3O5
product | Dimethyl 2-[2-oxo-1-(1,2,3,4-tetrahydro-2,3-dioxo-6-methoxyquinoxalin-7-ylcarbamoyl)propylazo]terephthalate | O=C(C(N=NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC)C(NC1=C(C=C2NC(C(NC2=C1)=O)=O)OC)=O)C | C23H21N5O9
